US08703807B2
Step 5: 2-(4-Isopropoxy-phenyl)-2-aza-spiro[4.5]decane-1,8-dione
To a solution of 8-hydroxy-2-(4-isopropoxy-phenyl)-2-aza-spiro[4.5]decan-1-one (7 g) and 2,2,6,6-tetramethylpiperidine-1-oxyl (721 mg) in dichloromethane (250 ml) were added sequentially a solution of potassium bromide (549 mg) in water (60 ml), sodium hypochlorite (52.8 ml), sodium bicarbonate (5.81 g) and the reaction mixture was then stirred for 3 hour at RT. The reaction mixture was poured into ice/water and extracted three times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated off. The residue was purified by flash chromatography (silica gel, gradient 0% to 50% ethyl acetate in heptane) to give the title compound as a brown solid (5 g). MS (m/e): 302.174 [MH+].

reactant | 8-hydroxy-2-(4-isopropoxy-phenyl)-2-aza-spiro[4.5]decan-1-one | 7 g | OC1CCC2(CCN(C2=O)C2=CC=C(C=C2)OC(C)C)CC1 | C18H25NO3
reactant | 2,2,6,6-tetramethylpiperidine-1-oxyl | 721 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | potassium bromide | 549 mg | [Br-].[K+]
reactant | sodium bicarbonate | 5.81 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 60 ml | O | H2O
solvent | sodium hypochlorite | 52.8 ml | Cl[O-].[Na+]
product | 2-(4-Isopropoxy-phenyl)-2-aza-spiro[4.5]decane-1,8-dione | 5 g | C(C)(C)OC1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)=O)=O | C18H23NO3
